US05433855
To a solution of phosphorous trichloride (55 g) in dry diethyl ether (200 cm3) stirred and maintained at between -25° C. and -30° C. in an atmosphere of dry nitrogen a 2 molar solution of tert-butyl magnesium chloride in diethyl ether (200 cm3, solution supplied by Aldrich Chemical Co.) was added during 45 min. After a further 30 min., a 2 molar solution of n-butyl magnesium chloride (200 cm3, solution supplied by Aldrich Chemical Co.) was added in the same way. The suspension was stirred at -25° C. for a further 45 min., then allowed to reach ambient temperature, and finally boiled under reflux for 30 min., cooled, filtered to remove magnesium chloride, and distilled, yielding n-butyl tert-butyl chlorophosphine (30.8 g), b.p. 76-78° C. under a pressure of 15 mm of mercury.

reactant | phosphorous trichloride | 55 g | P(Cl)(Cl)Cl | Cl3P
reactant | tert-butyl magnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | n-butyl magnesium chloride | 200 cm3 | C(CCC)[Mg]Cl
solvent | diethyl ether | 200 cm3 | C(C)OCC | C4H10O
solvent | diethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | n-butyl tert-butyl chlorophosphine | 30.8 g | C(CCC)P(Cl)C(C)(C)C | C8H18ClP
